US05502017
Synthesis of 1-(Dimethyl-t-Butylsilyl)-2,3,5,6-Tetrafluorobenzene (C6HF4TBS; TBS=t-butyl, dimethylsilyl)
The compound, 1-bromo-2,3,5,6-tetrafluorobenzene, C6HBrF4, (14.8 g, 64.6 mmol) was dissolved in diethyl ether (200 ml) in a 500 ml flask and was cooled down to -78° C. Butyllithium (40 ml, 1.6M in hexanes) was then added to the flask dropwise while the solution was being stirred vigorously. After it had been stirred for one hour, t-butyldimethylsilyl trifluoromethane sulfonate (17.0 g, 64.6 mmol) was injected via a syringe. The reaction mixture was allowed to slowly warm up to room temperature over a period of eight hours, and the resulting suspension was filtered. After the solvent was removed from the filtrate at 25° C. under reduced pressure, the nonvolatile residue was distilled and a colorless liquid product was collected (45°C./0.8 mm Hg). Yield, 80%, 1H NMR(CCl2D2): δ0.40 (t, 6H), 0.93 (s, 9H), 7.10 (m, 1H); 13C NMR(CCl2D2): δ -3.7(t), 18.1(s) , 26.5(s) , 108.0(t), 144.8(m), 148.1(t), 151.4(t).

reactant | 1-bromo-2,3,5,6-tetrafluorobenzene | BrC1=C(C(=CC(=C1F)F)F)F | C6HBrF4
reactant | Butyllithium | 1.6M, 40 ml | C(CCC)[Li]
reactant | t-butyldimethylsilyl trifluoromethane sulfonate | 64.6 mmol, 17.0 g | FC(S(=O)(=O)O[Si](C)(C)C(C)(C)C)(F)F | C7H15F3O3SSi
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 1-(Dimethyl-t-Butylsilyl)-2,3,5,6-Tetrafluorobenzene | C[Si](C1=C(C(=CC(=C1F)F)F)F)(C(C)(C)C)C | C12H16F4Si
